US07790747B2
N-Acetylglycine (0.031 ml, 0.22 mmol) was dissolved in 1:1 10N NaOH/THF (2 ml) and was stirred at 50° C. for 1 h. The mixture was neutralized to pH 4 with 6N HCl, then concentrated. The yellowish solid was diluted with 1:1 MeOH/CH2Cl2 (25 ml), filtered to remove inorganic salts, and concentrated. The solid obtained was diluted again with 1:1 MeOH/CH2Cl2 and concentrated to give (2-oxo-pyrrolidin-1-yl)-acetic acid as a white solid. The crude product was used in the next reaction without purification.

reactant | N-Acetylglycine | 0.22 mmol, 0.031 ml | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | HCl | 6N | Cl | ClH
reactant | NaOH THF | 10N, 2 ml | [OH-].[Na+].C1CCOC1
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | (2-oxo-pyrrolidin-1-yl)-acetic acid | O=C1N(CCC1)CC(=O)O | C6H9NO3
